US07732637B2
61 mg (0.20 mmol) of N-lauroyl-L-valine and 39 mg (0.26 mmol) of N-hydroxysuccinimide monohydrate were dissolved into 3.0 mL of dried chloroform. 50 mg (0.26 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride was added thereto under argon atmosphere and in the ice bath, and stirred at 0° C. for 3 hours. 35 μL of triethylamine and 35 μL of cyclohexylamine were added thereto and stirred at room temperature overnight. Then, 20 mL of ethyl acetate was added thereto and washed with 25 mL of 0.2N hydrochloric acid, 20 mL of water and 20 mL of a saturated aqueous solution of sodium hydrogen carbonate. The mixture was then dried with anhydrous sodium sulfate and condensed under reduced pressure. The residue was purified with a thin-layer chromatography (silica gel, chloroform:methanol=20:1) to obtain 34 mg of N-lauroyl-L-valine cyclohexylamide (0.089 mmol, yield 44%).

reactant | N-lauroyl-L-valine | 0.20 mmol, 61 mg | C(CCCCCCCCCCC)(=O)N[C@@H](C(C)C)C(=O)O | C17H33NO3
reactant | N-hydroxysuccinimide monohydrate | 0.26 mmol, 39 mg | O.ON1C(CCC1=O)=O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.26 mmol, 50 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | cyclohexylamine | 35 μL | C1(CCCCC1)N | C6H13N
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 35 μL | C(C)N(CC)CC | C6H15N
solvent | chloroform | 3.0 mL | C(Cl)(Cl)Cl | CHCl3
product | N-lauroyl-L-valine cyclohexylamide | 0.089 mmol, 34 mg, yield 44% | C1(CCCCC1)NC([C@@H](NC(CCCCCCCCCCC)=O)C(C)C)=O | C23H44N2O2
